US05854274
N-(10-Acetyl-10,11-dihydro-5H-dibenzo(b,e)(1,4)-diazepin-6-yl)-4-methoxybenzenesulfonamide
N-(10,11-Dihydro-5H-dibenzo(b,e)(1,4)diazepin-6-yl)-4-methoxybenzensulfonamide, which had been synthesized in the same manner as the one of Example 31, was reacted with acetic anhydride at room temperature. Then the obtained product was purified by silica gel column chromatography and thus the title compound was obtained.

reactant | N-(10,11-Dihydro-5H-dibenzo(b,e)(1,4)diazepin-6-yl)-4-methoxybenzensulfonamide | C1=CC=CC=2NC3=C(NCC21)C=CC=C3NS(=O)(=O)C3=CC=C(C=C3)OC | C20H19N3O3S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-(10-Acetyl-10,11-dihydro-5H-dibenzo(b,e)(1,4)-diazepin-6-yl)-4-methoxybenzenesulfonamide | C(C)(=O)N1C2=C(NC3=C(C1)C=CC=C3)C(=CC=C2)NS(=O)(=O)C2=CC=C(C=C2)OC | C22H21N3O4S
